US07342115B2
A solution of 4-bromo-5-isopropyl-1H-indazole (1.6 g, 6.9 mmol) in Et2O (4 mL) is added slowly to a suspension of KH (1.0 g of 30% dispersion in mineral oil, 7.7 mmol) in Et2O (20 mL) at 0° C. and the mixture is stirred for 20 minutes. After cooling to −78° C., t-BuLi (8.9 mL of 1.7 M in Hex, 15 mmol) is added and the resulting mixture is stirred for 40 minutes at −78° C. To this is added B(On-Bu)3 (5.6 mL, 21 mmol) and the mixture is stirred for 24 hours at room temperature. The reaction mixture is quenched with 1N H3PO4 and extracted with Et2O. The combined Et2O layers are back-extracted with 1N NaOH (3×10 mL). The combined NaOH extracts are acidified with 1N H3PO4 and extracted with EtOAc. The EtOAc extracts are washed with saturated brine, dried (MgSO4), and concentrated to yield 5-isopropyl-1H-indazole-4-boronic acid. 1H NMR (CDCl3) 7.85 (s, 1H), 7.42 (d, 1H), 7.37 (d, 1H), 3.6 (br s, 2H), 2.88 (m, 1H), 1.32 (d, 6H).

reactant | 4-bromo-5-isopropyl-1H-indazole | 6.9 mmol, 1.6 g | BrC1=C2C=NNC2=CC=C1C(C)C | C10H11BrN2
reactant | t-BuLi | 15 mmol, 1.7 M, 8.9 mL | [Li]C(C)(C)C
reactant | B(On-Bu)3 | 21 mmol, 5.6 mL | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
solvent | Et2O | 4 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 5-isopropyl-1H-indazole-4-boronic acid | C(C)(C)C1=C(C=2C=NNC2C=C1)B(O)O | C10H13BN2O2
